US04158013
A. N-Cyano-N'-propargyl-S-methylisothiourea
A solution of dimethyl cyanodithioiminocarbonate (16.00 g, 0.109 mole) and propargylamine (6.03 g, 0.109 mole) in acetonitrile (320 ml) was stirred at reflux for 4 hours, and then at 25° for 12 hours. The mixture was cooled and filtered to yield the title compound (13.58 g, 81%), mp 160°-164°.

reactant | dimethyl cyanodithioiminocarbonate | 0.109 mole, 16.00 g | CSC(=NC#N)SC | C4H6N2S2
reactant | propargylamine | 0.109 mole, 6.03 g | C(C#C)N | C3H5N
solvent | acetonitrile | 320 ml | C(C)#N | C2H3N
product | N-Cyano-N'-propargyl-S-methylisothiourea | 13.58 g, 81% | C(#N)NC(SC)=NCC#C | C6H7N3S
